US04159984
To a solution of 435 mg of benzyl α-(3ξ-diazoacetyl-2-carbobenzoxy-7-oxo-4-oxa-2,6-diazabicyclo[3.2.0]heptan-6-yl)-α-isopropylideneacetate in 4 ml of methylene chloride is added 1 ml of ether containing 16% hydrogen chloride, and the mixture stirred at room temperature for 30 minutes and then concentrated under reduced pressure to yield 433 mg of benzyl α-(3ξ-chloroacetyl-2-carbobenzoxy-7-oxo-4-oxa-2,6-diazabicyclo-[3.2.0]heptan-6-yl)-α-isopropylideneacetate as crystals.

reactant | benzyl α-(3ξ-diazoacetyl-2-carbobenzoxy-7-oxo-4-oxa-2,6-diazabicyclo[3.2.0]heptan-6-yl)-α-isopropylideneacetate | 435 mg | [N+](=[N-])=CC(=O)C1N(C2C(N(C2O1)C(C(=O)OCC1=CC=CC=C1)=C(C)C)=O)C(=O)OCC1=CC=CC=C1 | C26H24N4O7
reactant | ether | 1 ml | CCOCC | C4H10O
reactant | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
product | benzyl α-(3ξ-chloroacetyl-2-carbobenzoxy-7-oxo-4-oxa-2,6-diazabicyclo-[3.2.0]heptan-6-yl)-α-isopropylideneacetate | 433 mg | ClCC(=O)C1N(C2C(N(C2O1)C(C(=O)OCC1=CC=CC=C1)=C(C)C)=O)C(=O)OCC1=CC=CC=C1 | C26H25ClN2O7
